US08809372B2
Step 1: 5-(4-Fluorophenyl)thiazole
Using 5-bromothiazole (1.0 g, 6.09 mmol) and (4-fluorophenyl)boronic acid (1.0 g, 7.31 mmol) and following the procedure described in example 7 step 1, the title compound was obtained after purification by purified by Biotage IsoleraOne® column (10% ethyl acetate in hexane) as yellow viscous liquid (0.4 g, 36% yield). 1H NMR (400 MHz, DMSO-d6): δ 9.05 (s, 1H), 8.25 (s, 1H), 7.73-7.69 (m, 2H), 7.27 (t, 2H); LC-MS m/z calculated for [M+H]+ 180.02, found 180.1.

reactant | 5-bromothiazole | 6.09 mmol, 1.0 g | BrC1=CN=CS1 | C3H2BrNS
reactant | (4-fluorophenyl)boronic acid | 7.31 mmol, 1.0 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | 5-(4-Fluorophenyl)thiazole | FC1=CC=C(C=C1)C1=CN=CS1 | C9H6FNS
